US05260445
5-(4-[2-(N-Methyl-N-(2-benzothiazolyl)amino)ethoxy] benzylidene)-2,4-thiazolidinedione
A solution of 4-[2-(N-methyl-N-(2-benzothiazolyl)amino) ethoxy]benzaldehyde (1.9 g) and 2,4-thiazolidinedione (0.8 g) in toluene (100 ml) containing a catalytic quantity of piperidinium acetate was boiled under reflux in a Dean and Stark apparatus for 2 hours. The mixture was cooled and filtered and the filtered solid was dried to give the title compound (mp 219° C.).

reactant | 4-[2-(N-methyl-N-(2-benzothiazolyl)amino) ethoxy]benzaldehyde | 1.9 g | CN(C=1SC2=C(N1)C=CC=C2)CCOC2=CC=C(C=O)C=C2 | C17H16N2O2S
reactant | 2,4-thiazolidinedione | 0.8 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(N-Methyl-N-(2-benzothiazolyl)amino)ethoxy] benzylidene)-2,4-thiazolidinedione | CN(C=1SC2=C(N1)C=CC=C2)CCOC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C20H17N3O3S2
